US04317830
1-Cyclooctylmethylimidazole (~0.3 g) was dissolved in dry ether (30 ml), when a stream of dry hydrogen chloride was passed through the solution at -20° C. The resulting white precipitate was filtered off under dry nitrogen and recrystallised from ethyl acetate/petroleum ether (b.p. 40°-60° C.) to afford 1-cyclooctylmethylimidazole hydrochloride as a white solid, m.p. 20°-22° C.

reactant | 1-Cyclooctylmethylimidazole | ~0.3 g | C1(CCCCCCC1)CN1C=NC=C1 | C12H20N2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1-cyclooctylmethylimidazole hydrochloride | Cl.C1(CCCCCCC1)CN1C=NC=C1 | InChI=1S/C12H20N2.ClH/c1-2-4-6-12(7-5-3-1)10-14-9-8-13-11-14;/h8-9,11-12H,1-7,10H2;1H
